US04703130
2,5,8,17-Tetraoxaeicosane-19,20-diol
To a suspension of 9.01 g of unwashed 50% sodium hydride in 100 ml of dimethyformamide was added, dropwise over one hour, 22.06 g of solketal. After cooling in an ice bath a solution of 42 g of 1-[[8-[2-(2-methoxyethoxy)-ethoxy]octyl]sulfonyl]-4-methylbenzene in 25 ml of dimethylformamide was added. This mixture was stirred for 2 days, then water was added and the mixture extracted with ether. The ether extract was dried and the solvent removed. The residue was refluxed for one hour in a mixture of 175 ml of methanol, 25 ml of water and 1.25 ml of concentrated sulfuric acid. The methanol was removed, saturated aqueous sodium chloride added and the mixture extracted with ethyl acetate. The organic extract was dried, the solvent removed and the residue purified by HPLC, eluting with ethyl acetate, giving 14.7 g of the desired compound as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | solketal | 22.06 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | 1-[[8-[2-(2-methoxyethoxy)-ethoxy]octyl]sulfonyl]-4-methylbenzene | 42 g | COCCOCCOCCCCCCCCS(=O)(=O)C1=CC=C(C=C1)C | C20H34O5S
reactant | water | O | H2O
solvent | dimethyformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,5,8,17-Tetraoxaeicosane-19,20-diol | 14.7 g | COCCOCCOCCCCCCCCOCC(CO)O | C16H34O6
